2128-03-02 22:24:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56M unable to undergo HD today because of a clotted graft and found to
   have hyperglycemia. Apparently has been noncompliant with meds.
   In ER, vitals stable, HCO3 25, AG 23, glucose 580. CXR with possible
   RLL infiltrate. He was started on IV insulin and given vanco and zosyn.
   24 Hour Events:
                       History obtained from housestaff
   Allergies:
   Tapazole (Oral) (Methimazole)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2128-3-2**] 08:04 PM
   Infusions:
   Insulin - Regular - 13 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   DM
   CHF
   ESRD
   HTN
   PVD
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Nausea
   Flowsheet Data as of  [**2128-3-2**] 10:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 101 (101 - 108) bpm
   BP: 124/74(85) {108/69(78) - 136/85(95)} mmHg
   RR: 22 (22 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.7 kg (admission): 62.7 kg
             Total In:
             653 mL
   PO:
             TF:
   IVF:
   653 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    653 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   Physical Examination
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   636 mg/dL
   6.6 mg/dL
   25 mEq/L
   2.8 mEq/L
   31 mg/dL
   95 mEq/L
   134 mEq/L
        [image002.jpg]
                             [**2128-3-2**]  04:55 PM
                             [**2128-3-2**]  07:28 PM
                             [**2128-3-2**]  07:32 PM
                             [**2128-3-2**]  07:47 PM
   Cr
   7.4
   6.6
   TropT
   0.31
   TCO2
   26
   Glucose
   259
   273
   636
   Other labs: CK / CKMB / Troponin-T:71//0.31, Lactic Acid:1.4 mmol/L,
   Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: 7.43/24/144
   Imaging: CXR LLL pna
   ECG: EKG ST 106, new TWI laterally
   Assessment and Plan
   DKA - likely due to med noncompliance and pneumonia, gap has already
   closed, replete lytes, wean insulin drip
   pneumonia - treat with vanco/zosyn
   elevated troponin, subtle EKG changes - continue beta blockers, follow
   EKG
   failed AV fistula - discuss with surgery tomorrow
   ESRD - hopefully access straightened out and can undergo HD tomorrow
   steroid use - will straighten out daily dose in the AM
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-3-2**] 06:10 PM
   18 Gauge - [**2128-3-2**] 06:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill